US07223747B2
3-Fluoro-4,5-dimethoxybenzaldehyde.
To a stirred solution prepared from 100 mL of DMF and 5-fluorovanillin (lit 1.0 g, 5.88 mmol). After 15 minutes, iodomethane was added, and stirring at room temperature continued for 16 hours. The reaction was terminated by the addition of water, the mixture was extracted with hexane (3×100 ML), and solvents were removed in vacuo. Purification by flash chromatography on a column of silica gel using hexane-ethyl acetate (4:1) as eluent afforded a colorless solid (1 g, 93% yield); mp 51–53° C. (Lit17 mp 52–53° C.) 1H-NMR (300 MHz, CDCl3) δ 3.94 (s, 3H), 4.05 (s, 3H), 7.24 (s, 1H), 7.26 (s, 1H), 9.82 (s, 1H).

reactant | 5-fluorovanillin | 5.88 mmol, 1.0 g | FC=1C(=C(C=C(C=O)C1)OC)O | C8H7FO3
reactant | iodomethane | IC | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-4,5-dimethoxybenzaldehyde | 1 g, 93% yield | FC=1C=C(C=O)C=C(C1OC)OC | C9H9FO3
